US04634712
2-[4-cyano-4-(3,4-dimethoxyphenyl)-5,N-dimethyl-hexylamino]-1-methylethanol
A solution of 18.9 g of 4-cyano-4-(3,4-dimethoxyphenyl)-5,N-dimethyl-hexylamine and 4.5 g of propylene oxide in 40 ml of methanol was allowed to stand for 24 hours at 20° C. A further 0.75 g of propylene oxide was then added, and after 24 hours at 20° C. the solution was refluxed for 1 hour and then evaporated to dryness in vacuo. The oil thus obtained was purified by silica gel chromatography using chloroform containing increasing amounts of methanol as eluent. The unitary TLC fractions (chloroform:methanol:5N methanolic ammonia 95:5:0.5 by volume) were evaporated to dryness to give 18.78 g of the title compound as an oil.

reactant | 4-cyano-4-(3,4-dimethoxyphenyl)-5,N-dimethyl-hexylamine | 18.9 g | C(#N)C(CCCNC)(C(C)C)C1=CC(=C(C=C1)OC)OC | C17H26N2O2
reactant | propylene oxide | 4.5 g | C1C(C)O1 | C3H6O
reactant | propylene oxide | 0.75 g | C1C(C)O1 | C3H6O
solvent | methanol | 40 ml | CO | CH4O
product | 2-[4-cyano-4-(3,4-dimethoxyphenyl)-5,N-dimethyl-hexylamino]-1-methylethanol | 18.78 g | C(#N)C(CCCN(C)CC(O)C)(C(C)C)C1=CC(=C(C=C1)OC)OC | C20H32N2O3
